US07678801B2
18a) 3-fluoro-5-iodo-4-methylbenzoic acid
The benzoic acid (1.54 g, 0.01 mol) is dissolved in trifluoromethanesulfonic acid (10 mL) and cooled to about 0° C. NIS (2.25 g. 0.01 mol) is added in several portions over a 6 h period while maintaining the reaction temperature at about 0° C. The mixture is allowed to warm to rt. overnight. The reaction mixture is then poured over ice and extracted with ethyl acetate (3×). The organic layers are washed (Na2S2O5) and concentrated. The material is carried on crude.

reactant | benzoic acid | 0.01 mol, 1.54 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | NIS | 0.01 mol, 2.25 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | trifluoromethanesulfonic acid | 10 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 3-fluoro-5-iodo-4-methylbenzoic acid | FC=1C=C(C(=O)O)C=C(C1C)I | C8H6FIO2
